US05124489
The procedure of Example 2 was repeated with a solution of 2.00 g (10.2 mmol) 4-hydroxyphenylglyoxal dimethyl acetal in 10 g methanol containing 0.23 g (6.3) mmol) hydrogen chloride and 0.20 g moist 10% Pd/C catalyst being reacted with hydrogen ga pressurized at 170 psig at 25° C. with stirring of 550 rpm. A 53% yield of 4-(2'-methoxyethyl)phenol was obtained.

reactant | 4-hydroxyphenylglyoxal dimethyl acetal | 10.2 mmol, 2.00 g | COC(C=O)(C1=CC=C(C=C1)O)OC | C10H12O4
reactant | hydrogen chloride | Cl | ClH
reactant | hydrogen | [H][H] | H2
reactant | methanol | 10 g | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 4-(2'-methoxyethyl)phenol | 53% yield | COCCC1=CC=C(C=C1)O | C9H12O2
